US07378418B2
Preparation of 6-Benzyl-7,8-bis(4-chlorophenyl)-2-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7,8-bis(4-chlorophenyl)-2-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (50 mg, 0.135 mmol), prepared as described in Example 474, in THF (1 mL) at −20° C. was added benzyl magnesium bromide (0.34 mL, 0.675 mmol, 2.0 M in THF). The reaction was stirred at −20° C. for 30 min. After this time MeOH (5 mL) was added to quench the reaction. The reaction was allowed to warm to RT and the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography using an automated system eluting with a gradient of (0% to 80% EtOAc for 20 min. and holds at 80% for 20 min.) to give the title compound, 6-benzyl-7,8-bis(4-chlorophenyl)-2-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (29 mg, 46%) as a beige solid. HPLC retention time: 4.10 min; MS [M+H]+: found 463. 1H NMR (CDCl3, 400 MHz) δ 7.30-6.90 (m, 13H), 4.22 (t, 1H), 3.36 (s, 3H), 2.90-2.75 (m, 2H).

reactant | 7,8-bis(4-chlorophenyl)-2-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.135 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N4O
reactant | benzyl magnesium bromide | 0.675 mmol, 2.0 M, 0.34 mL | C(C1=CC=CC=C1)[Mg]Br
reactant | MeOH | 5 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-benzyl-7,8-bis(4-chlorophenyl)-2-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 29 mg, 46% | C(C1=CC=CC=C1)C1C(=C(C=2N(N1)C(N(N2)C)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C25H20Cl2N4O
